US08168821B2
Diallyl {2-[1-(2-ethoxy-2-oxoethyl)cyclopropyl]ethyl}{2-[4-(methoxycarbonyl)phenyl]ethyl}-malonate
Under argon and at 0° C., 0.22 g (5.41 mmol) of sodium hydride (60% strength dispersion in mineral oil) is added a little at a time to a solution of 1.34 g (3.87 mmol) of diallyl 2-[4-(methoxy-carbonyl)phenyl]ethylmalonate in 10 ml of anhydrous DMF. The mixture is stirred at 40° C. for 30 min, and a solution of 1.00 g (4.25 mmol) of ethyl [1-(2-bromoethyl)cyclopropyl]acetate in 5 ml of anhydrous DMF is then added dropwise at this temperature. The reaction mixture is then heated at 110° C. for 12 hours. After addition of 100 ml of water and 100 ml of ethyl acetate and phase separation, the aqueous phase is extracted with ethyl acetate. The organic phase is then washed five times with water and once with saturated sodium chloride solution and dried over anhydrous magnesium sulfate. The crude product is purified by preparative HPLC. This gives 0.33 g (17% of theory) of the title compound as a colorless oil.

reactant | sodium hydride | 5.41 mmol, 0.22 g | [H-].[Na+]
reactant | diallyl 2-[4-(methoxy-carbonyl)phenyl]ethylmalonate | 3.87 mmol, 1.34 g | COC(=O)C1=CC=C(C=C1)CCC(C(=O)OCC=C)C(=O)OCC=C | C19H22O6
reactant | ethyl [1-(2-bromoethyl)cyclopropyl]acetate | 4.25 mmol, 1.00 g | BrCCC1(CC1)CC(=O)OCC | C9H15BrO2
reactant | water | 100 ml | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | Diallyl {2-[1-(2-ethoxy-2-oxoethyl)cyclopropyl]ethyl}{2-[4-(methoxycarbonyl)phenyl]ethyl}-malonate | C(C)OC(CC1(CC1)CCC(C(=O)OCC=C)(C(=O)OCC=C)CCC1=CC=C(C=C1)C(=O)OC)=O | C28H36O8
